US06903120B2
4-(3-Methylsulfanyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid methyl ester
4-(3-Methylsulfanyl-phenyl)-1,2,3,6-tetrahydro-pyridine (2 g) and NEt3 (1 g) were dissolved in CH2Cl2 (75 ml) and cooled to 0° C. Methyl chloroformate (0.96 g) dissolved in CH2Cl2 (20 ml) was added dropwise and the reaction mixture was then allowed to reach room temperature. After an additional two hours at room temperature the reaction mixture was washed with 10% Na2CO3 solution, dried (MgSO4), filtered and concentrated by evaporation. The oily residue was chromatographed on a silica column using CH2Cl2:MeOH (19:1 (v/v)) as eluent, 4-(3-methylsulfanyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid methyl ester (1.4 g). MS m/z (relative intensity, 70 eV) 263 (M+ 45), 248 (89), 129 (83), 128 (bp), 59 (96).

reactant | 4-(3-Methylsulfanyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 2 g | CSC=1C=C(C=CC1)C=1CCNCC1 | C12H15NS
reactant | NEt3 | 1 g | CCN(CC)CC | C6H15N
reactant | Methyl chloroformate | 0.96 g | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-Methylsulfanyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid methyl ester | COC(=O)N1CCC(=CC1)C1=CC(=CC=C1)SC | C14H17NO2S
